US07842688B2
b) Benzyl 4-{4-[2-(3-methoxyphenoxy)ethoxy]phenyl}-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidinecarboxylate
Analogously to Method I, 0.500 g of benzyl 4-hydroxyphenyl-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidinecarboxylate and 0.414 g of 2-(3-methoxyphenoxy)ethyl toluene-4-sulphonate are reacted. The title compound is obtained as a colourless oil. Rf=0.31 (2:1 EtOAc-heptane); Rt=5.51.

reactant | benzyl 4-hydroxyphenyl-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidinecarboxylate | 0.500 g | OC1=CC=C(C=C1)C1N(CCCC1OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1)C(=O)OCC1=CC=CC=C1 | C32H36N2O7
reactant | 2-(3-methoxyphenoxy)ethyl toluene-4-sulphonate | 0.414 g | C1(=CC=C(C=C1)S(=O)(=O)OCCOC1=CC(=CC=C1)OC)C | C16H18O5S
product | Benzyl 4-{4-[2-(3-methoxyphenoxy)ethoxy]phenyl}-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidinecarboxylate | COC=1C=C(OCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OCC2=CC=CC=C2)OCC=2C=CC3=C(N(C(CO3)=O)CCCOC)C2)C=CC1 | C41H46N2O9
